US09063126B2
1-azatricyclo[4.3.1.13,8]undecan-4-one
To an ice-cooled solution of trimethylsilyldiazomethane (2 N in hexanes, 9.00 mL, 18.00 mmol; Aldrich) was added a solution of 1-azaadamantan-4-one (2.268 g, 15 mmol; Becker, D. P.; Flynn, D. L. Synthesis 1992, 1080) in tetrahydrofuran (12 mL) dropwise over 20 minutes Anhydrous methanol (6 mL) was added and the mixture was allowed to warm to room temperature. After 18 hours, glacial acetic acid was added dropwise until the mixture was colorless (about 1 mL). The reaction mixture was shaken with saturated sodium carbonate (4 mL), the tetrahydrofuran layer was separated, and the aqueous portion was extracted with dichloromethane (3×12 mL). The combined organic phases were dried over magnesium sulfate, filtered, and concentrated to give the title compound: 1H NMR (300 MHz, CDCl3) δ ppm 1.72 (m, 1H), 1.78 (dddd, J=13.6, 4.0, 2.4, 2.1 Hz, 1H), 1.88 (m, 1H), 1.90 (dddd, J=14.6, 4.0, 2.4, 2.1 Hz, 1H), 2.14 (dddd, J=14.4, 6.5, 4.4, 1.9 Hz, 1H), 2.27 (m, 1H), 2.59 (t, J=5.8 Hz, 1H), 2.63-2.68 (m, 2H), 2.96 (m, 1H), 3.01 (dd, J=4.4, 2.0 Hz, 1H), 3.07 (m, 1H), 3.14 (m, 1H), 3.25 (ddd, J=14.6, 4.9, 1.2 Hz, 1H), 3.43 (dd, J=14.2, 5.1 Hz, 1H); MS (DCI/NH3) m/z 166 (M+H)+.

reactant | trimethylsilyldiazomethane | 18.00 mmol, 2 N, 9.00 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 1-azaadamantan-4-one | 15 mmol, 2.268 g | N12CC3C(C(CC(C1)C3)C2)=O | C9H13NO
reactant | methanol | 6 mL | CO | CH4O
reactant | sodium carbonate | 4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-azatricyclo[4.3.1.13,8]undecan-4-one | N12CC3C(CC(CC(C1)C3)C2)=O | C10H15NO
